* /Users/forti/Google Drive/Laboratorio 3/2016-17/Lezioni PDF/Lezione simulazioni circuitali/LTSpice Files/DotMeasCplx.asc
Q1 OUT N002 N003 0 2N3904
R3 N003 0 1K
V3 IN 0 AC 1
R1 0 N002 10K
C1 N002 IN 1µ
R2 N002 N001 100K
V1 N001 0 9
C2 N003 0 20µ
R4 N001 OUT 20K
C3 N002 OUT {C}
.model NPN NPN
.model PNP PNP
.lib /Users/forti/Library/Application Support/LTspice/lib/cmp/standard.bjt
.ac oct 10 1 10Meg
.measure tmp max mag(V(out))
.measure BW trig mag(V(out))=tmp/sqrt(2) rise=1 targ mag(V(out))=tmp/sqrt(2) fall=last
.measure Vout find V(out) at 1K
.step oct param C 10p 1n 5
.backanno
.end
